US05240925
b. Preparation of 4-(2-Hydroxyethyl)-2,6-dimethylmorpholine
To a flask was added 22.8 g. (0.6 mole) of lithium aluminum hydride in 300 ml. of dimethyl ether. The stirred slurry was cooled to 0° C. and then 26.5 g. (0.15 mole) of ethyl 2,6-dimethyl-4-morpholinylacetate was slowly added. The reaction was allowed to warm to room temperature and stirred for 18 hours. It was then quenched with aqueous ammonium chloride, filtered, and extracted with diethyl ether. The solvent was concentrated to give 15.5 g. (67% yield) of the desired intermediate.

reactant | lithium aluminum hydride | 0.6 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | dimethyl ether | COC | C2H6O
reactant | ethyl 2,6-dimethyl-4-morpholinylacetate | 0.15 mole | CC1CN(CC(O1)C)CC(=O)OCC | C10H19NO3
product | 4-(2-Hydroxyethyl)-2,6-dimethylmorpholine | 67% yield | OCCN1CC(OC(C1)C)C | C8H17NO2
